US05290796
A mixture of diethyl 3,4,8-trimethyl-2-(phenylmethyl)-2-azabicyclo[2.2.2]octane-6,6-dicarboxylate (3.4 g, 8.8 mmol) formic acid (3 mL) and triethylamine (4 mL) was heated to 160° C. for 1.5 hours. The reaction mixture was cooled to room temperature and allowed to stand for 24 hours. The mixture was basified with concentrated NH4OH and the mixture was extracted with ether (3X). The organic layers were combined, dried over anhydrous MgSO4 and concentrated in vacuo to afford 2.6 g (93%) of ethyl 2,3,4-trimethyl-1-(phenylmethyl)-3-piperidinepropanoate as a yellow oil.

reactant | diethyl 3,4,8-trimethyl-2-(phenylmethyl)-2-azabicyclo[2.2.2]octane-6,6-dicarboxylate | 8.8 mmol, 3 mL, 3.4 g | CC1N(C2C(CC1(C(C2)C)C)(C(=O)OCC)C(=O)OCC)CC2=CC=CC=C2 | C23H33NO4
reactant | NH4OH | [NH4+].[OH-]
solvent | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
product | ethyl 2,3,4-trimethyl-1-(phenylmethyl)-3-piperidinepropanoate | 2.6 g, 93% | CC1N(CCC(C1(CCC(=O)OCC)C)C)CC1=CC=CC=C1 | C20H31NO2
